US04604390
To a mixture of 2.45 g of N-[2-[2-(diethylamino)-ethyl]-9-hydroxy-2H-[1]benzopyrano[4,3,2-cd]indazol-5-yl]-2-[[2-(phenylmethoxy)ethyl](phenylmethyl)amino]acetamide in 80 ml of dry tetrahydrofuran under argon was added 40 ml of 1M solution of borane tetrahydrofuran complex in tetrahydrofuran. After 24 hours at 50° C., an additional 3 ml of borane tetrahydrofuran complex was added and the reaction continued for another three hours at 50° C. The mixture was poured into 150 ml of methanol, heated under reflux overnight, evaporated to dryness, and the residue of crystallized from diethyl ether to afford 1.36 g of 2-[2-diethylamino)ethyl]-5-[[2-(phenylmethoxy)ethyl](phenylmethyl)amino]ethyl]amino]-2H-[1]benzopyrano[4,3,2-cd]indazol-9-ol.

reactant | N-[2-[2-(diethylamino)-ethyl]-9-hydroxy-2H-[1]benzopyrano[4,3,2-cd]indazol-5-yl]-2-[[2-(phenylmethoxy)ethyl](phenylmethyl)amino]acetamide | 2.45 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)NC(CN(CC1=CC=CC=C1)CCOCC1=CC=CC=C1)=O)OC1=C2C=C(C=C1)O)CC | C37H41N5O4
reactant | methanol | 150 ml | CO | CH4O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 2H-[1]benzopyrano[4,3,2-cd]indazol-9-ol | N=1NC=2C=CC=C3C2C1C1=C(O3)C=CC(=C1)O | C13H8N2O2
